US06166003
2-Thienyl lithium can be generated from 2-bromothiophene (Aldrich Chemical Co.) and n-butyl lithium (Aeros Organics, Pittsburgh, Pa.). 2-Thienyl lithium is allowed to react with 1.5 equivalents of 1,4-dibromobutane (Aeros Organics, Pittsburgh, Pa.) to give bromobutyl thiophene. The bromine is then replaced by an azide ion. The thienyl butyl azide thus obtained is reduced by sodium borohydride to yield the amine, 2-thienyl butyl amine (Scheme 5). The 2-thienyl butyl amine dissolved in water is added dropwise to a solution of thiophosgene in dichloromethane. In another dropping funnel a solution of 10% sodium hydroxide is introduced slowly to maintained alkalinity of the reaction mixture. The reaction is allowed to stand at room temperature for an additional hour with stirring. The organic layer is separated and washed with water, saturated sodium chloride solution, water, and dried over anhydrous magnesium sulfate. The solvent is removed in vacuo and the product, 2-TBITC, obtained by vacuum distillation.

reactant | 2-Thienyl lithium | S1C(=CC=C1)[Li]
reactant | 2-bromothiophene | BrC=1SC=CC1 | C4H3BrS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1,4-dibromobutane | 1.5 equivalents | BrCCCCBr | C4H8Br2
product | bromobutyl thiophene | BrCCCCC=1SC=CC1 | C8H11BrS
